US04057578
To 11.8 g (0.05 mole) distilled trichloromethane phosphonic dichloride and 8.6 g (0.1 mole) methylacrylate was added a solution of 134 mg (1 mmole) anhydrous cupric chloride and 206 mg (1.5 mmole) triethylammonium chloride in 5 ml acetonitrile. The homogeneous solution was heated in the absence of air in a sealed ampoule at 125° for 15 hours. After cooling, the contents of the ampoule was subjected to distillation. 12.9 g 1:1 adduct, 1,1,3-trichloro-3-carbomethoxypropane-1-phosphonic dichloride was obtained, bp/0.04: 83°. Cl-(by half-hydrolysis): 11.23%. Calc. for C5H6Cl5O2P: 11.01%. In the absence of triethylammonium chloride, 3.7 g adduct was obtained.

reactant | trichloromethane phosphonic dichloride | ClC(P(=O)(Cl)Cl)(Cl)Cl | CCl5OP
reactant | methylacrylate | 0.1 mole, 8.6 g | COC(C=C)=O | C4H6O2
reactant | triethylammonium chloride | 1.5 mmole, 206 mg | [Cl-].C(C)[NH+](CC)CC
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 1,1,3-trichloro-3-carbomethoxypropane-1-phosphonic dichloride | ClC(CC(C(=O)OC)Cl)(P(=O)(Cl)Cl)Cl | C5H6Cl5O3P
